US08293897B2
N-(5-(7-(((5R)-4-oxaspiro[2.4]heptane-5-yl)methoxyl)quinolin-4-yloxy)pyridin-2-yl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazol-4-carboxamide
The title compound was prepared according to the procedure described in Example 2 by using N-(5-(7-hydroxyquinolin-4-yloxy)pyridin-2-yl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide (280 mg, 0.69 mmol), cesium carbonate (1.17 g, 3.45 mmol, Aladdin), and ((5R)-4-oxaspiro[2.4]heptane-5-yl)methyl methanesulfonate (204 mg, 0.99 mmol) in DMA (5 mL). The title compound was purified by a silica gel column chromatography (1:8 (v/v) n-hexane/EtOAc) as a colorless solid (110 mg, 27.6%).

reactant | N-(5-(7-hydroxyquinolin-4-yloxy)pyridin-2-yl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide | 0.69 mmol, 280 mg | OC1=CC=C2C(=CC=NC2=C1)OC=1C=CC(=NC1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C26H21N5O4
reactant | cesium carbonate | 3.45 mmol, 1.17 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ((5R)-4-oxaspiro[2.4]heptane-5-yl)methyl methanesulfonate | 0.99 mmol, 204 mg | CS(=O)(=O)OC[C@@H]1OC2(CC2)CC1 | C8H14O4S
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
product | N-(5-(7-(((5R)-4-oxaspiro[2.4]heptane-5-yl)methoxyl)quinolin-4-yloxy)pyridin-2-yl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazol-4-carboxamide | C1CC12O[C@H](CC2)COC2=CC=C1C(=CC=NC1=C2)OC=2C=CC(=NC2)NC(=O)C=2C(N(N(C2C)C)C2=CC=CC=C2)=O | C33H31N5O5
